US08383644B2
(3S,8S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (20 mg) was reacted with 3-chloro-benzyl bromide according to General Procedure J and the resulting ester was hydrolyzed according to General Procedure AB to provide (3S,8S)-3-[4-(3-chloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (20 mg). The title compound (18 mg) was prepared from (3S,8S)-3-[4-(3-chloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (20 mg) and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride according to General Procedures L and B. LCMS (m/z): 823.

reactant | (3S,8S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 20 mg | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)O)[C@@H](CC)C3=CC=CC=C3 | C28H29NO5
reactant | 3-chloro-benzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | (3S,8S)-3-[4-(3-chloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 20 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1 | C34H32ClNO5
